US05864042
Example 3 4-Amino-5-mercapto-3-[1-(3-pentadecylphenoxy)propyl][1,2,4]triazole
To a mixture of 2.65 g (25 mmol) of thiocarbohydrazide and 9.77 g (25 mmol) of 2-(3-pentadecylphenoxy)butanoic acid in 30 mL of toluene was added 0.42 g (2.5 mmol) of 3-nitrobenzene boronic acid was heated at reflux for 24 hr. The reaction was cooled and the reaction was allowed to settle. The supernatant liquid was decanted. To the residual solid was added 20 mL of acetonitrile. The mixture was stirred for 15 minutes. The solid was collected, rinsed with 5 mL of cold acetonitrile and dried in vacuo to afford 7.20 g (60.4%) of the desired product as a white solid. Analytical data are consistent with the assigned structure.

reactant | thiocarbohydrazide | 25 mmol, 2.65 g | NNC(=S)NN | CH6N4S
reactant | 2-(3-pentadecylphenoxy)butanoic acid | 25 mmol, 9.77 g | C(CCCCCCCCCCCCCC)C=1C=C(OC(C(=O)O)CC)C=CC1 | C25H42O3
reactant | 3-nitrobenzene boronic acid | 2.5 mmol, 0.42 g | [N+](=O)([O-])C=1C=C(C=CC1)B(O)O | C6H6BNO4
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 4-Amino-5-mercapto-3-[1-(3-pentadecylphenoxy)propyl][1,2,4]triazole | 7.20 g, 60.4% | NN1C(=NN=C1S)C(CC)OC1=CC(=CC=C1)CCCCCCCCCCCCCCC | C26H44N4OS
